US04863904
A solution of 1.01 g of 2-cyano-3-phenylpropenoic acid ethyl ester and 0.7 ml of concentrated hydrochloric acid in 20 ml of ethanol was hydrogenated over 0.1 g of platinum oxide under a hydrogen atmosphere at room temperature for 5 hours. After filtration of the catalyst, the filtrate was concentrated under reduced pressure. The residue was dissolved in water, washed with benzene, and then made alkaline by adding a 5% aqueous sodium bicarbonate solution. The alkaline solution was extracted with diethyl ether, the ethereal layer was washed with water and dried over anhydrous magnesium sulfate. Hydrogen chloride gas was passed into the ethereal solution. The ethereal solution was concentrated under reduced pressure to obtain 832 mg of 3-amino-2-benzylpropionic acid ethyl ester hydrochloride as colorless crystals.

reactant | 2-cyano-3-phenylpropenoic acid ethyl ester | 1.01 g | C(C)OC(C(=CC1=CC=CC=C1)C#N)=O | C12H11NO2
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.1 g | [Pt]=O
product | 3-amino-2-benzylpropionic acid ethyl ester hydrochloride | 832 mg | Cl.C(C)OC(C(CN)CC1=CC=CC=C1)=O | InChI=1S/C12H17NO2.ClH/c1-2-15-12(14)11(9-13)8-10-6-4-3-5-7-10;/h3-7,11H,2,8-9,13H2,1H3;1H
